US09259470B2
1-((4-chloro-3-fluorophenyl)(oxazol-5-yl)methyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one
A microwave tube was charged with a solution of 1-((4-chloro-3-fluorophenyl)(oxazol-5-yl)methyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one (53 mg, 0.12 mmol) in DMA (1.2 mL). Tetrahydro-2H-pyran-4-amine (35 mg, 0.35 mmol) was added neat by syringe. The reaction was put into a microwave apparatus and heated to 120° C. After 1 hour, the solution was diluted to 30 mL with ethyl acetate and washed with a water/brine mixture (4×30 mL). The organics were isolated, dried (MgSO4), filtered and concentrated. TLC in ethyl acetate showed complete loss of starting material and a new spot of nearly the same rf. The crude product was loaded onto a Biotage 12M column with ethyl acetate and eluted. Product containing fractions were pooled and concentrated to an oil, 1-((4-chloro-3-fluorophenyl)(oxazol-5-yl)methyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one (20 mg, 36%). 1H NMR (400 MHz, CDCl3) 8.40 (d, 1H), 7.98 (s, 1H), 7.56 (s, 1H), 7.43 (dd, 1H), 7.31 (d, 1H), 7.22 (br s, 1H), 7.08 (s, 1H), 7.00 (m, 2H), 6.90 (s, 1H), 6.83 (dd, 1H), 5.20 (br d, 1H), 4.11 (m, 1H), 4.01 (m 2H), 3.55 (m, 2H), 2.06 (m, 2H), 1.58 (m, 2H); m/z (APCI-pos) M+1=483.0.

reactant | 1-((4-chloro-3-fluorophenyl)(oxazol-5-yl)methyl)-4-(2-(methylsulfonyl)pyrimidin-4-yl)pyridin-2(1H)-one | 0.12 mmol, 53 mg | ClC1=C(C=C(C=C1)C(N1C(C=C(C=C1)C1=NC(=NC=C1)S(=O)(=O)C)=O)C1=CN=CO1)F | C20H14ClFN4O4S
reactant | Tetrahydro-2H-pyran-4-amine | 0.35 mmol, 35 mg | O1CCC(CC1)N | C5H11NO
solvent | DMA | 1.2 mL | CC(=O)N(C)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-((4-chloro-3-fluorophenyl)(oxazol-5-yl)methyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | ClC1=C(C=C(C=C1)C(N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O)C1=CN=CO1)F | C24H21ClFN5O3
